US07855290B2
1-Benzhydrylazetidine-3-carboxylic acid
To a solution of 1-benzhydryl-3-cyanoazetidine (5.43 g) in methoxyethanol (54 ml) were added potassium hydroxide (6.48 g) and water (3.25 ml), followed by stirring at 100° C. for 4 hr. The reaction mixture was allowed to cool down to room temperature. The reaction mixture was poured into ice. After adjusting this to pH 5 with 1N hydrochloric acid, sodium chloride was added thereto. This was extracted with a mixed solvent of ethyl acetate and tetrahydrofuran. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer after drying was concentrated under reduced pressure to provide a crude product of the titled compound as pale yellow crystals. The crystals were suspended by addition of diethyl ether (15 ml). The crystals were collected by filtration and washed with diethyl ether. This was dried under aeration to provide the titled compound as pale yellow crystals (4.20 g, 71.7%).

reactant | 1-benzhydryl-3-cyanoazetidine | 5.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | potassium hydroxide | 6.48 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | methoxyethanol | 54 ml | COC(C)O | C3H8O2
solvent | water | 3.25 ml | O | H2O
product | 1-Benzhydrylazetidine-3-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)O | C17H17NO2
